US07816371B2
c. N-(2-((R)-1-Amino-1-oxopropan-2-yl)-1-oxo-1,2-dihydroisoquinolin-5-yl)-2-(4-chloro-3-(trifluoromethyl)phenyl)propanamide
To a solution of (R)-2-(5-amino-1-oxoisoquinolin-2(1H)-yl)propanamide (183.1 mg, 0.0007522 mol) in N,N-dimethylformamide (6 mL, 0.08 mol) was added 2-(4-chloro-3-(trifluoromethyl)phenyl)propanoic acid (110.0 mg, 0.0004137 mol), N,N,N′,N′-tetramethyl-O-(7-azabenzotriazol-1-yl)uronium hexafluorophosphate (360 mg, 0.00095 mol) and N,N-diisopropylethylamine (305 μL, 0.00175 mol). The reaction mixture was stirred at 50° C. overnight. LC/MS was checked, and the reaction was complete. In the work up, EtOAc (100 mL) was added to the reaction solution, and the solution was washed with water (2×100 mL), Sat. NaHCO3, H2O, and brine. The mixture was dried with MgSO4 and was rotovaped. The residue was purified by HPLC. The product was recovered as a solid. MS m/z=466.1 (M+1). 1H NMR (400 MHz; DMSO-d6) δ 10.08(s, 1 H), 8.07(d, J=7.9 Hz, 1 H), 7.92(s, 1 H), 7.80-70(m, 3 H), 7.63(s, 1 H), 7.50-7.40(m, 2 H), 7.23 (s, 1 H), 6.51(dd, J=7.6, 4.8 Hz, 1 H), 5.47(q, J=7.2 Hz, 1 H), 4.16(q, J=7.0 Hz, 1 H), 1.58-1.45(m, 6H).

reactant | (R)-2-(5-amino-1-oxoisoquinolin-2(1H)-yl)propanamide | 0.0007522 mol, 183.1 mg | NC1=C2C=CN(C(C2=CC=C1)=O)[C@@H](C(=O)N)C | C12H13N3O2
reactant | N,N-dimethylformamide | 0.08 mol, 6 mL | CN(C=O)C | C3H7NO
reactant | 2-(4-chloro-3-(trifluoromethyl)phenyl)propanoic acid | 0.0004137 mol, 110.0 mg | ClC1=C(C=C(C=C1)C(C(=O)O)C)C(F)(F)F | C10H8ClF3O2
reactant | N,N,N′,N′-tetramethyl-O-(7-azabenzotriazol-1-yl)uronium hexafluorophosphate | 0.00095 mol, 360 mg | F[P-](F)(F)(F)(F)F.C[N+](=C(ON1N=NC2=C1N=CC=C2)N(C)C)C
reactant | N,N-diisopropylethylamine | 0.00175 mol, 305 μL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | N-(2-((R)-1-Amino-1-oxopropan-2-yl)-1-oxo-1,2-dihydroisoquinolin-5-yl)-2-(4-chloro-3-(trifluoromethyl)phenyl)propanamide | NC([C@@H](C)N1C(C2=CC=CC(=C2C=C1)NC(C(C)C1=CC(=C(C=C1)Cl)C(F)(F)F)=O)=O)=O | C22H19ClF3N3O3
